US09303012B2
b) 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid methyl-(1-trifluoromethyl-cyclopropyl)-amide
A solution of 6-cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (1-trifluoromethyl-cyclopropyl)-amide (20 mg, 51.1 μmol) and sodium hydride (3.3 mg, 76.7 μmol) in DMF (0.2 mL) was stirred for 15 min. at ambient temperature. Iodomethane (14.5 mg, 6.38 μL, 102 μmol) was added and stirring was continued for 1 h. The reaction mixture was poured onto ice/sat. aqueous NaHCO3 solution (15 mL) and extracted with EtOAc (2×25 mL). The combined extracts were washed with ice water/brine (2×20 mL), dried over Na2SO4 and brought to dryness. The crude brown oil was purified by preparative TLC (silica gel, 1 mm, heptan/EtOAc 4:1, elution with EtOAc) to give the title compound (13 mg, 63%) as colorless oil; MS (EI): m/e=406.4 [MH]+.

reactant | 6-cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (1-trifluoromethyl-cyclopropyl)-amide | 51.1 μmol, 20 mg | FC(C1(CC1)NC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCC1CC1)(F)F | C17H18F5N3O2
reactant | sodium hydride | 76.7 μmol, 3.3 mg | [H-].[Na+]
reactant | Iodomethane | 102 μmol, 6.38 μL, 14.5 mg | IC | CH3I
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid methyl-(1-trifluoromethyl-cyclopropyl)-amide | 13 mg, 63% | CN(C(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCC1CC1)C1(CC1)C(F)(F)F | C18H20F5N3O2
